US08864894B2
5.0 g of trimethoxysilylpropyldimethylamine and 18 g of ethyl acetate were charged into a 100 mL flask to be dissolved. While stirring the resultant mixed solution with a magnetic stirrer, to the mixed solution, a solution in which 4.6 g of methyl trifluoroacetate was dissolved in 24 g of ethyl acetate was gradually added at room temperature in a nitrogen atmosphere. The reaction mixture was refluxed over 3 days and therefrom, ethyl acetate was distilled off under reduced pressure. The resultant concentrate was dropped into 100 mL of diethyl ether and therefrom, trimethoxysilylpropyldimethylamine and methyl trifluoroacetate as by-products were removed. This purification was repeated three times and then remaining diethyl ether was distilled off under reduced pressure, followed by dissolving the resultant concentrate in methanol to obtain a 30% methanol solution of trimethoxysilylpropyltrimethylammonium trifluoroacetate.

reactant | trimethoxysilylpropyldimethylamine | 5.0 g | CO[Si](OC)(OC)CCCN(C)C | C8H21NO3Si
reactant | methyl trifluoroacetate | 4.6 g | FC(C(=O)OC)(F)F | C3H3F3O2
solvent | ethyl acetate | 24 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 18 g | C(C)(=O)OCC | C4H8O2
product | trimethoxysilylpropyltrimethylammonium trifluoroacetate | FC(C(=O)[O-])(F)F.CO[Si](OC)(OC)CCC[N+](C)(C)C | InChI=1S/C9H24NO3Si.C2HF3O2/c1-10(2,3)8-7-9-14(11-4,12-5)13-6;3-2(4,5)1(6)7/h7-9H2,1-6H3;(H,6,7)/q+1;/p-1
